US05047554
5-Iodo-2-thiophenecarboxylic acid
The title compound has been described by Schick, J. W., et al., J. Am. Chem. Soc. 70:286 (1948), and was prepared according to the following procedure. A 25 ml (62.5 mmoles) volume of a 2.5M hexane solution of n-butyllithium was slowly added by syringe to a cooled (dry ice/2-propanol) 100 ml tetrahydrofuran solution of 9.0 ml (64.2 mmoles) of diisopropylamine. The solution was maintained below -60° C. during n-butyllithium addition. After addition, the cooling bath was removed and the solution allowed to reach room temperature (22° C.), and then cooled again below -60° C. To the cooled reaction vessel, 3.2 g (25.0 mmol) of 2-thiophenecarboxylic acid dissolved in 100 ml of tetrahydrofuran was slowly added. Thirty minutes after complete addition of 2-thiophenecarboxylic acid, approximately 17.2 g (87.8 mmoles) of iodotrifluoromethane was condensed into the reaction. After 5 minutes the cooling bath was removed and the reaction warmed to 0° C. and quenched with 50 ml of water. The basic aqueous solution was washed with 500 ml of diethyl ether. The ether solution was extracted with 50 ml of 1N sodium hydroxide and the two aqueous solutions were combined and washed with ether. The basic solution was acidified and extracted three times with 100 ml of diethyl ether. Drying of the organic solution with anhydrous magnesium sulfate followed by filtration and concentration gave a crude solid product. Partial purification was achieved by reprecipitation of the solid product from hot aqueous ethanol to give 3.79 g of slightly impure desired product as a mixture of dark red solid and yellow crystals. Recrystallization of the solid mixture gave 2.18 g (8.58 mmoles, 34% yield) of pure title compound as light yellow needles, m.p. 132°-134° C (hexanes).

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 64.2 mmoles, 9.0 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2-thiophenecarboxylic acid | 25.0 mmol, 3.2 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | iodotrifluoromethane | 87.8 mmoles, approximately 17.2 g | IC(F)(F)F | CF3I
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.5M | CCCCCC | C6H14
product | 5-Iodo-2-thiophenecarboxylic acid | IC1=CC=C(S1)C(=O)O | C5H3IO2S
